US08314097B2
To a solution of (4′-fluorobiphenyl-2-yl)-methanol (2.58 g, 12.8 mmol) in CH2Cl2 (100 mL), carbon tetrabromide (7.40 g, 22.3 mmol) is added. The solution is cooled to 0° C. and then triphenylphosphine (7.53 g, 28.7 mmol) is added portionwise. The reaction is stirred at 0° C. for 1.5 h and then at room temperature for 90 h before the solvent is removed. The resulting residue is partitioned between Et2O and water and then filtered. The layers are separated and the aqueous layer is extracted with Et2O. The combined organic layers are washed with water, brine and dried over Na2SO4. After concentration, the residue is purified by flash chromatography (hexane) to give 2-bromomethyl-4′-fluorobiphenyl as an oil. (an alternative preparation appears in J. Med. Chem. 2004, 47(22), 5441) 1H NMR (400 MHz, CDCl3) δ 7.53-7.50 (m, 1H), 7.43-7.31 (m, 4H), 7.24-7.21 (m, 1H), 7.15-6.80 (m, 2H), 4.42 (s, 2H).

reactant | (4′-fluorobiphenyl-2-yl)-methanol | 12.8 mmol, 2.58 g | FC1=CC=C(C=C1)C1=C(C=CC=C1)CO | C13H11FO
reactant | carbon tetrabromide | 22.3 mmol, 7.40 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 28.7 mmol, 7.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-bromomethyl-4′-fluorobiphenyl | BrCC1=C(C=CC=C1)C1=CC=C(C=C1)F | C13H10BrF
